US08623889B2
Step 5: 1-(5-bromo-3-chloro-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol
To a solution of 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde (123.9 mg; 0.5284 mmol) in tetrahydrofuran (5.0 mL; 62 mmol) at 0° C. was added (trifluoromethyl)trimethylsilane (0.170 mL; 1.1 mmol) followed by tetrabutylammonium fluoride (1 mol/L) in THF (1.6 mL; 1.6 mmol). The resulting mixture was stirred at room temperature for 17 hours. The reaction mixture was then diluted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-50% ethyl acetate in heptanes) to yield 119.7 mg (74%) of the title compound. LCMS (ESI): M+H=304.0; 1H NMR (400 MHz, DMSO) δ 8.76 (s, 1H), 6.92 (d, J=6.9 Hz, 1H), 5.58 (p, J=6.9 Hz, 1H), 2.55 (s, 3H).

reactant | 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde | 0.5284 mmol, 123.9 mg | BrC=1C(=C(C(=NC1)C=O)Cl)C | C7H5BrClNO
reactant | tetrahydrofuran | 62 mmol, 5.0 mL | O1CCCC1 | C4H8O
reactant | (trifluoromethyl)trimethylsilane | 1.1 mmol, 0.170 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1 mol/L | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 1.6 mmol, 1.6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-bromo-3-chloro-4-methylpyridin-2-yl)-2,2,2-trifluoroethanol | 119.7 mg, 74% | BrC=1C(=C(C(=NC1)C(C(F)(F)F)O)Cl)C | C8H6BrClF3NO
